US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclopropylmethyl)amino)methyl)cyclopentane-1,2-diol
Trifluoroacetic Acid (10 mL) added to a mixture of Water (1 mL) and 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclopropylmethyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.52 g, 0.68 mmol) at RT. The reaction was stirred overnight at RT and Triethylsilane (0.22 mL. 1.4 mmol) was added. The volatiles were removed in vacuo and resulting residue was taken up in MeOH (15 mls), 500 mgs of K2CO3 and 8 drops H2O were added and the reaction stirred at RT for 1 hour. The mixture was filtered and the filter cake washed with 10 ml MeOH. The filtrate was concentrated and the resulting residue purified by flash chromatography (DCM/7N NH3 in MeOH 90:10) to give the desired product (0.196 g) as an off white foam. MS (ESI+) for C33H45N7O2 m/z 572.6 [M+H]+; MS (ESP) for C33H45N7O2 m/z 570.3 [M−H]−; HPLC purity >90% (ret. time, 2.850 min.) 1H NMR (400 MHz, d4-MeOH) δH 7.944 (s, 1H), 7.361 (s, 1H), 7.280-7.259 (m, 1H), 7.172-7.150 (m, 1H), 7.092-7.078 (m, 1H), 6.484-6.475 (d, J=3.6 Hz, 1H), 4.222-4.185 (m, 1H), 3.815-3.779 (m, 1H), 3.329 (m, 0.5H (methine of trans isomer)), 2.961 (m, 0.5H (methine of cis isomer), 2.745-2.627 (m, 3H), 2.503-2.450 (m, 1H), 2.301-2.187 (m, 5H), 2.036-1.890 (m, 2H), 1.793-1.776 (m, 3H), 1.529-1.385 (m, 2H), 1.246 (s, 9H), 0.808-0.739 (m, 1H), 0.394-0.362 (m, 2H), 0.012-0.013 (m, 2H). Retention time: 2.850 minutes. HPLC Conditions:Agilent Zorbax Exlipse XDB-C18 column, 4.6×50 mm (1.8 urn packing), Solvent A—Water (0.1% TFA), Solvent B—Acetonitrile (0.07% TFA) 6 min gradient from 5 to 95% B; 1 min hold; then recycle.

reactant | Trifluoroacetic Acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclopropylmethyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.68 mmol, 0.52 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(CC2CC2)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C45H59N7O4
reactant | Triethylsilane | 1.4 mmol, 0.22 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | K2CO3 | 500 mgs | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 15 mls | CO | CH4O
catalyst | H2O | 8 drops | O | H2O
solvent | Water | 1 mL | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclopropylmethyl)amino)methyl)cyclopentane-1,2-diol | 0.196 g | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(CC2CC2)C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C(C)(C)C)O)O | C33H45N7O2
